US07977338B2
A mixture of 500 mg of 5-amino-2-bromobenzotrifluoride (Dakwood Products, Inc.), 6.2 mMol 3-bromophenylboronic acid (Aldrich), 70 mg of Pd(PPh3)4 and 5 ml of Na2CO3, 2 M solution in H2O, in 14 ml of toluene is stirred at reflux for 1 our. The mixture obtained is allowed to cool to rt and filtered through a pad of celite. The layers obtained are separated and the aqueous phase obtained is extracted with CH2Cl2. The organic phase obtained is washed with brine, dried (Na2SO4), filtered and concentrated in vacuo. The concentration residue obtained is subjected to MPLC(CH3CN/H2O/TFA). 3′-Bromo-2-trifluoromethyl-biphenyl-4-amine is obtained. MS: 315.9 [M−1]−; HPLCDtRet=4.9; Rf=0.16 (Hexane/EtOAc, 4:1).

reactant | 5-amino-2-bromobenzotrifluoride | 500 mg | NC=1C=CC(=C(C1)C(F)(F)F)Br | C7H5BrF3N
reactant | 3-bromophenylboronic acid | 6.2 mMol | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
reactant | Na2CO3 | 5 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | CH3CN H2O TFA | CC#N.O.C(=O)(C(F)(F)F)O
solvent | H2O | O | H2O
solvent | toluene | 14 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 70 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3′-Bromo-2-trifluoromethyl-biphenyl-4-amine | BrC=1C=C(C=CC1)C1=C(C=C(C=C1)N)C(F)(F)F | C13H9BrF3N
